US07138402B2
4-Chloro-5-[(dibenzylamino)-methyl]-7-(4-methoxy-3,5-dimethyl-pyridin-2-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamine
A suspension of octanoic acid {4-chloro-5-[(dibenzylamino)-methyl]-7H-pyrrolo[2,3-d]pyrimidin-2-yl}-amide (150 mg, 0.30 mmol), 2-chloromethyl-4-methoxy-3,5-dimethyl-pyridine (56 mg, 0.30 mmol) and K2CO3 (84 mg, 0.60 mmol) in dry DMF (1 mL) was heated to 45° C. overnight. After work-up (EtOAc) and evaporation, the residue was taken up in methanolic 4N HCl (1 mL), stirred at room temperature for 1 h, and neutralized to pH 7 with 2N NaOH. Extraction with EtOAc (10 mL×3), evaporation and purification by preparative TLC (MeOH/CH2Cl2 10:1) gave the title compound (70.5 mg, 45%). HPLC Rt: 5.362 min. 1H-NMR (DMSO-d6): δ 8.05 (s, 1H), 7.30–7.22 (m, 10H), 6.99(s, 1H), 6.57 (s, 2H), 5.27 (s 2H), 3.70 (s, 2H), 3.65 (s, 3H), 3.54 (s, 4H), 2.17 (s, 3H), 2.15 (s, 3H).

reactant | octanoic acid {4-chloro-5-[(dibenzylamino)-methyl]-7H-pyrrolo[2,3-d]pyrimidin-2-yl}-amide | 0.30 mmol, 150 mg | ClC=1C2=C(N=C(N1)NC(CCCCCCC)=O)NC=C2CN(CC2=CC=CC=C2)CC2=CC=CC=C2 | C29H34ClN5O
reactant | 2-chloromethyl-4-methoxy-3,5-dimethyl-pyridine | 0.30 mmol, 56 mg | ClCC1=NC=C(C(=C1C)OC)C | C9H12ClNO
reactant | K2CO3 | 0.60 mmol, 84 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 4-Chloro-5-[(dibenzylamino)-methyl]-7-(4-methoxy-3,5-dimethyl-pyridin-2-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamine | 70.5 mg, 45% | ClC=1C2=C(N=C(N1)N)N(C=C2CN(CC2=CC=CC=C2)CC2=CC=CC=C2)CC2=NC=C(C(=C2C)OC)C | C30H31ClN6O
